* Isolated supplied output inverter, not complete SRAM
.lib /home/elfo/pocketai/build/m6_pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include output_driver.spice
.option scale=1e-6
.temp 25
VDD vdd 0 1.8
VIN in 0 PULSE(0 1.8 1n 0.0025n 0.0025n 3n 8n)
XOUT vdd 0 in out folded_inv_9
CLOAD out 0 0.013p
.tran 1p 12n
.meas tran fall_s TRIG v(out) VAL=1.62 FALL=1 TARG v(out) VAL=0.18 FALL=1
.meas tran rise_s TRIG v(out) VAL=0.18 RISE=1 TARG v(out) VAL=1.62 RISE=1
.end
